* A:\Personal Projects\Audio_Mixer\Dual-Channel-Audio-Mixer\Audio mixer spice\Analog 2 channel Audio Mixer.asc
* Generated by LTspice 24.1.10 for Windows.
V1 MidIn 0 AC 1
R5 N006 N005 {summingR}
R6 N006 N008 {summingR}
R7 N006 N014 {summingR}
X§U5 0 N006 OPpos OPneg N007 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R8 N007 N006 {summingR}
R9 N005 LowOut {(lowpassP1 / 100) * 100k}
R10 N008 HighOut {(highpassP1 / 100) * 100k}
R11 N014 MidOut {(midpassP1 / 100) * 100k}
V3 OPpos 0 12
V5 OPneg 0 -12
X§U6 0 N017 OPpos OPneg Out level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
V2 MidIn1 0 AC 1
R16 N021 N020 {summingR}
R17 N021 N023 {summingR}
R18 N021 N025 {summingR}
X§U11 0 N021 OPpos OPneg N019 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R19 N019 N021 {summingR}
R20 N020 LowOut1 {(lowpassP / 100) * 100k}
R21 N023 HighOut1 {(highpassP / 100) * 100k}
R22 N025 MidOut1 {(midpassP / 100) * 100k}
R23 N017 N007 {summingR}
R24 N017 N019 {summingR}
R25 Out N017 {summingR}
R26 N001 MidIn 3.3k
R27 N002 N001 3.3k
C9 N002 0 470n
C10 LowOut N001 470n
X§U12 N002 LowOut OPpos OPneg LowOut level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R28 N011 N010 3.3k
R29 0 N015 3.3k
C11 N015 N010 470n
C12 N010 MidIn 470n
X§U13 N015 N011 OPpos OPneg N011 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R30 HighOut N003 68
R31 0 N004 68
C13 N004 N003 470n
C14 N003 MidIn 470n
X§U14 N004 HighOut OPpos OPneg HighOut level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R32 N012 N011 68
R33 N016 N012 68
C15 N016 0 470n
C16 N013 N012 470n
X§U15 N016 N013 OPpos OPneg N013 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
X§U1 0 N009 OPpos OPneg MidOut level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R1 N009 N013 10k
R2 N009 MidOut 10k
R3 N018 MidIn1 3.3k
R4 N022 N018 3.3k
C1 N022 0 470n
C2 LowOut1 N018 470n
X§U2 N022 LowOut1 OPpos OPneg LowOut1 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R34 N029 N028 3.3k
R35 0 N032 3.3k
C3 N032 N028 470n
C4 N028 MidIn1 470n
X§U3 N032 N029 OPpos OPneg N029 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R36 HighOut1 N024 68
R37 0 N026 68
C17 N026 N024 470n
C18 N024 MidIn1 470n
X§U4 N026 HighOut1 OPpos OPneg HighOut1 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R38 N030 N029 68
R39 N033 N030 68
C19 N033 0 470n
C20 N031 N030 470n
X§U16 N033 N031 OPpos OPneg N031 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
X§U17 0 N027 OPpos OPneg MidOut1 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R40 N027 N031 10k
R41 N027 MidOut1 10k
.param summingR 100k
* Low pass - 100Hz
* High pass - 5kHz
* Mid Band pass - 100Hz to 5khz
.ac dec 10 1 100k
* Low pass - 100Hz
* High pass - 5kHz
* Mid Band pass - 100Hz to 5khz
.param lowpassP=100
.param highpassP=100
.param midpassP=100
.param lowpassP1=1
.param highpassP1=100
.param midpassP1=100
* HIGHER PERCENT = LESS PASSTHROUGH\nLOWER PERCENT = MORE PASSTHROUGH
.param lowR=3.3k
.param highR=680
.param lowC=470n
.param highC=47n
.lib UniversalOpAmp1.lib
.backanno
.end
